US08119563B2
Step C Synthesis of ethyl 4-{bis[4-(trifluoromethyl)phenyl]chloromethyl}piperidine-4-carboxylate as an Intermediate
A solution of 190 milligrams (0.320 mmole) of ethyl 1-[(tert-butyl)oxycarbonyl]-4-{bis[4-(trifluoromethyl)phenyl]chloromethyl}piperidine-4-carboxylate and 2 mL of trifluoro acetic acid (TFA) in 0.5 mL of methylene chloride was stirred at room temperature for 10 minutes. The reaction mixture was then diluted with toluene and concentrated under reduced pressure, yielding 158 milligrams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | ethyl 1-[(tert-butyl)oxycarbonyl]-4-{bis[4-(trifluoromethyl)phenyl]chloromethyl}piperidine-4-carboxylate | 0.320 mmole, 190 milligrams | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC)C(Cl)(C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C28H30ClF6NO4
reactant | trifluoro acetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-{bis[4-(trifluoromethyl)phenyl]chloromethyl}piperidine-4-carboxylate | 158 milligrams | FC(C1=CC=C(C=C1)C(C1(CCNCC1)C(=O)OCC)(Cl)C1=CC=C(C=C1)C(F)(F)F)(F)F | C23H22ClF6NO2
